Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / aspirin / 
simvastatin
 
Attending: ___
 
Chief Complaint:
Shortness of breath, right calf pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old male with a past medical history
significant for hyperlipidemia, osteoarthritis, and recent right
hip replacement at ___ who presented to the 
___
ED with right calf pain, shortness of breath. Patient had a
recent right hip replacement on ___ and was discharged from ___. He was doing well until 2 days ago 
when
developed pain in his right calf, described as squeezing. During
this time he also developed shortness of breath, but did not 
have
any significant chest pain, no fever, chills, cough. Of note, 
the
patient's hip replacement procedure was uncomplicated and he was
prescribed Coumadin for DVT prophylaxis with 1 mg/day upon
discharge. Since that time he has not been advised to check his
INR or had follow up.

Upon arrival to the ___ ED, his HR was 118 and his other vital
signs were stable. His exam was notable for calf swelling, a 
calf
that was tender palpation, but without no overlying ecchymosis 
or
overlying skin changes. Labs revealed a PTT: 43.6, INR: 1.3, WBC
12.4, H/H of 11.0/34.6, proBNP: 69, and a normal chemistry 
panel.

Imaging was notable for a CTA Chest showing Acute pulmonary
embolism involving the right pulmonary artery with extension 
into
the right upper, middle, and lower lobe segmental subsegmental
branches as well as the left lower lobe segmental and
subsegmental branches.  No  evidence of right heart strain or
pulmonary infarction. LENIs showed Extensive deep venous
thrombosis throughout the entirety of the right lower extremity
veins extending from the right common femoral vein to the
posterior tibial and peroneal veins. A CXR showed Minimal
bibasilar atelectasis in the setting of low lung volumes. No
focal consolidation to suggest pneumonia. An EKG showed Sinus
tachycardia, probable left atrial enlargement, and an S1Q3T3. 

The patient was started on an IV heparin gtt and given
acetaminophen and dilaudid for pain control. 

Upon arrival to the floor, patient reports that he is overall
feeling well. He still has some intermittent shortness of breath
with exertion and some leg pain and stiffness. He states that 
his
symptoms have improved since presentation. He denies chest pain,
palpitations, abdominal pain, nausea, or vomiting.  
 
Past Medical History:
- Hyperlipidemia 
- Sciatica                                               
- S/p Vasectomy 
 
Social History:
___
Family History:
- Mother: ___-- EMPHYSEMA 
- Father: ___-- MYOCARDIAL INFARCTION (age ___
- Siblings: 1 brother deceased at ___ from MI, DM. 2
brother(s)remaining, 6 sister(s) 
- 1 son(s) , 1 daughter(s): healthy
 
Physical Exam:
Admission Exam:
VITAL SIGNS: ___ 1541 BP: 113/74 HR: 87 RR: 18 O2 sat: 97%
O2 delivery: RA  
GENERAL: A&O x3, resting comfortably in bed in no acute 
distress.
HEENT: EOMI, PERRLA. Moist mucous membranes. 
NECK: No thyromeglay. Moist mucous membranes.  
CARDIAC:  RRR, normal S1 &S2. No murmurs/gallops/rubs. 
LUNGS:  Clear to auscultation bilaterally. No wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, non-distended. + Bowel sounds.  
EXTREMITIES/SKIN:  Bilateral 1+ lower extremity edema, R>>L.
Right sided hip replacement surgical site C/D/I. 
NEUROLOGIC: A&O x3, moving all extremities with purpose.  

Discharge Exam:
24 HR Data (last updated ___ @ 803)
    Temp: 98.1 (Tm 99.3), BP: 135/88 (112-135/73-88), HR: 89
(73-126), RR: 18 (___), O2 sat: 96% (92-99), O2 delivery: Ra,
Wt: 183.42 lb/83.2 kg      
GENERAL: Lying down in bed, NAD 
CARDIAC: RRR, normal S1/S2. No murmurs.
LUNGS: CTAB. No adventurous sounds. Appears to be breathing
comfortably at rest. 
EXTREMITIES: Minimal to no tenderness to palpation of R calf. No
overlying skin changes or erythema. Mild pain with dorsiflexion
of R foot. No ___ pitting edema. Right sided hip replacement
surgical site incision healing appropriately. Compression
stockings on both legs.
NEUROLOGIC: A&Ox3
 
Pertinent Results:
Initial Labs:
___ 08:45PM BLOOD WBC-12.4* RBC-3.78* Hgb-11.0* Hct-34.6* 
MCV-92 MCH-29.1 MCHC-31.8* RDW-12.8 RDWSD-42.0 Plt ___
___ 08:45PM BLOOD Neuts-81.6* Lymphs-10.7* Monos-6.0 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-10.12* AbsLymp-1.33 
AbsMono-0.75 AbsEos-0.10 AbsBaso-0.04
___ 08:45PM BLOOD ___ PTT-28.9 ___
___ 08:45PM BLOOD Glucose-128* UreaN-19 Creat-0.8 Na-139 
K-4.3 Cl-100 HCO3-25 AnGap-14
___ 08:45PM BLOOD cTropnT-<0.01 proBNP-69
___ 08:45PM BLOOD Calcium-9.2 Phos-3.3 Mg-2.0

Discharge Labs:
___ 07:05AM BLOOD WBC-7.3 RBC-3.64* Hgb-10.5* Hct-33.4* 
MCV-92 MCH-28.8 MCHC-31.4* RDW-12.3 RDWSD-41.1 Plt ___

Other Important Interval Labs:
___ 05:25PM BLOOD CK-MB-<1 cTropnT-<0.01 proBNP-33

EXAMINATION:  CHEST (PA AND LAT), ___
  
TECHNIQUE:  Upright AP and lateral views of the chest 
  
FINDINGS:  
Heart size is borderline enlarged.  The mediastinal and hilar 
contours are 
normal. The pulmonary vasculature is normal.  Lung volumes are 
low.  Minimal 
atelectasis in the lung bases without focal consolidation.  No 
pleural 
effusion or pneumothorax is seen. There are no acute osseous 
abnormalities. 
  
IMPRESSION:  
Minimal bibasilar atelectasis in the setting of low lung 
volumes. No focal 
consolidation to suggest pneumonia. 
  
___ electronically signed on WED ___ 11:36 
AM 

EXAMINATION:  UNILAT LOWER EXT VEINS RIGHT (___)

FINDINGS:  
There is noncompressibility, no normal color flow or spectral 
Doppler of the 
entirety of the right lower extremity veins including the common 
femoral, 
femoral, popliteal, gastrocnemius, posterior tibial, and 
peroneal veins.  
Thrombosis is nearly completely occlusive throughout the right 
lower extremity 
veins with the exception of the common femoral vein where the 
thrombus is 
partly occlusive. 
  
IMPRESSION:  
Extensive deep venous thrombosis throughout the entirety of the 
right lower 
extremity veins extending from the right common femoral vein to 
the posterior 
tibial and peroneal veins. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
___, MD 
___ electronically signed on ___ ___ 11:16 
___ 

EXAMINATION:  CTA CHEST WITH CONTRAST (___)
  
INDICATION:  History: ___ with recent orthopedic surgery, 
tachycardia, 
shortness of breath.  Evaluate for pulmonary embolism. 
  
TECHNIQUE:  Axial multidetector CT images were obtained through 
the thorax 
after the uneventful administration of intravenous contrast.  
Reformatted 
coronal, sagittal, thin slice axial images, and oblique maximal 
intensity 
projection images were submitted to PACS and reviewed. 
  
HEART AND VASCULATURE: Intraluminal filling defects are 
demonstrated in the right pulmonary artery with extension into 
the right upper, middle, and lower lobe segmental and 
subsegmental branches.  Intraluminal filling defects are also 
seen in the left lower lobe segmental and subsegmental arteries. 
 Questionable filling defect in the left upper lobe subsegmental 
arteries may reflect embolus versus motion artifact.  The 
thoracic aorta is normal in caliber without evidence of 
dissection or intramural hematoma.  No significant coronary 
artery calcifications are demonstrated.  No pericardial 
effusion.  No evidence of right heart strain. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: No evidence to suggest pulmonary infarction.  
There is mild 
bibasilar dependent atelectasis.  No pulmonary consolidation.  
Evaluation for 
small nodules is limited by respiratory motion artifact. The 
airways are 
patent to the level of the segmental bronchi bilaterally. 
  
BASE OF NECK: Visualized portions of the base of the neck appear 
unremarkable. 
  
ABDOMEN:  Included portion of the upper abdomen is unremarkable. 

  
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
  
IMPRESSION:  
Acute pulmonary embolism involving the right pulmonary artery 
with extension 
into the right upper, middle, and lower lobe segmental 
subsegmental branches 
as well as the left lower lobe segmental and subsegmental 
branches.  No 
evidence of right heart strain or pulmonary infarction. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
___, MD 
___, MD electronically signed on WED ___ 
10:09 AM 

TTE (___)

The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is normal left ventricular wall
thickness with a normal cavity size. Overall left ventricular 
systolic function is hyperdynamic. The visually
estimated left ventricular ejection fraction is 75%. There is no 
resting left ventricular outflow tract
gradient. Mildly dilated right ventricular cavity with normal 
free wall motion. Tricuspid annular plane systolic
excursion (TAPSE) is normal. The aortic sinus diameter is normal 
for gender with normal ascending aorta
diameter for gender. The aortic arch is mildly dilated with a 
mildly dilated descending aorta. The aortic valve
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is mild [1+] aortic
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is trivial
mitral regurgitation. The pulmonic valve leaflets are normal. 
The tricuspid valve leaflets appear structurally
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is
borderline elevated. There is no pericardial effusion.

IMPRESSION: mildly dilated right ventricle with preserved 
systolic function; hyperdynamic left ventricle

Cardiology Echo Attending- ___, MD
___ Reading- ___, MD
___, ___
 
Brief Hospital Course:
PATIENT SUMMARY
Mr. ___ is a ___ year old male with a past medical history 
significant for hyperlipidemia, osteoarthritis, and recent right 
hip replacement at ___ on ___ who presented 
with right calf pain, shortness of breath, and tachycardia while 
on a subtherapeutic dose of warfarin. He was found to have 
extensive R leg DVT and bilateral PE (right upper, middle, 
lower, and left lower segmental and subsegmental branches), and 
was thus started on treatment initially with heparin ggt and 
currently on Apixaban. He has had persistent symptomatic 
orthostasis and severe-moderate pain in his L leg while standing 
and ambulating, and thus was monitored for symptomatic 
improvement. His orthostasis improved with compression stockings 
and wearing an abdominal binder and he no longer was symptomatic 
while walking prior to discharge. 

ACUTE MEDICAL ISSUES
#Pulmonary Embolism
#Deep Vein Thrombosis
#Orthostatic hypotension
He presented with shortness of breath and leg pain/swelling 
following recent right hip replacement on ___. LENIs showed 
extensive right lower extremity DVT throughout the entirety of 
the right lower extremity veins extending from the right common 
femoral vein to the posterior tibial and peroneal veins. He also 
had segmental and subsegmental PE in both the right upper, 
middle, lower, and left lower lobes of bilateral lungs. ECG 
demonstrated S1Q3T3 although no other changes. This was provoked 
in the setting of being on Warfarin 1mg/day for post surgical 
DVT ppx. INR was found to be subtherapeutic on admission. 
Submassive PE/DVT are thus provoked secondary to insufficient 
DVT prophylaxis post hip procedure. He was transitioned from a 
heparin drip to apixaban, which he should continue for 3 month 
treatment duration. Under observation, he remained 
hemodynamically stable at rest but was symptomatically 
orthostatic (HR 120s, SBP ___, lightheaded) when standing or 
ambulating. On re-evaluation, EKG showing deepening of Q waves 
in III and trop and BNP were normal. TTE showing mild RV 
dilation with preserved systolic function. He was evaluated by 
vascular surgery, and per their recommendations, was started on 
compression stocks, leg elevation and ACE wrap, and abdominal 
binder with ambulation. His orthostasis improved with 
compression stockings and wearing an abdominal binder and he no 
longer was symptomatic while walking prior to discharge. Was not 
hypoxemic while ambulating prior to discharge. 

# Recent Hip Replacement 
He had a recent hip replacement at ___ on ___. 
He had been on Warfarin 1mg/day for DVT ppx, now presenting with 
DVT and PE likely secondary to inadequate anticoagulation (INR 
1.2 on admission). Incision appears to be healing appropriately. 
His orthopedic surgeon at ___ (Dr. ___ 
___ was informed of his hospitalization. He is now on 
anticoagulation with apixaban as noted above. 

CHRONIC ISSUES
# Hyperlipidemia 
We continued his Ezetimibe 10 mg daily.

TRANSITIONAL ISSUES
**NEW or CHANGED MEDICATIONS**
[] We started Apixaban 10 mg BID for 7 days for PE/DVT through 
___. He should then transition to 5mg BID
[] He will need follow up with PCP to continue treatment with 
Apixaban for 3 month duration.
[] He was discharged with an abdominal binder and compression 
stockings that he shoulder wear when moving from a seated to 
standing position and when walking (while wearing this his heart 
rates increased to the low 100s on standing but he was otherwise 
asymptomatic). Continue to evaluate at next PCP visit whether he 
continues to require an abdominal binder and compression 
stockings
[] If ongoing pain in right lower extremity consider referral to 
vascular surgery by PCP however no plan for vascular 
intervention at this time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ezetimibe 10 mg PO DAILY 
2. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
Take 2 pills twice daily through ___. Then take 1 pill 
twice daily thereafter   
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Ezetimibe 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Pulmonary Embolism
DVT 
Orthostatic hypotension

Secondary Diagnosis:
Recent R hip replacement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because you were experiencing 
new-onset shortness of breath and pain in your right calf. 
- We scanned your chest (with a computed tomography angiography) 
and performed an ultrasound on your right leg, and found 
numerous clots in your right leg veins and in both your lungs. 
We call this deep vein thrombosis (DVT) and pulmonary embolism 
(PE). We believe that these clots were because of your recent 
right hip replacement
-You were thus admitted for further treatment and evaluation.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- While you were in the hospital, we changed your 
anticoagulation first to heparin and then to apixaban. This 
medication will help prevent future clots from forming on top of 
your existing clots and you should take this for 3 months
- We closely monitored you, since you were experiencing 
lightheadedness while standing and severe pain while walking. We 
did an ultrasound of your heart (transthoracic echocardiogram) 
and blood tests to look at cardiac enzymes, which did not show 
that your heart was being strained due to your lung clots. 
- We had the vascular surgery team evaluate you due to your 
lightheadedness and difficulty walking. They recommended 
ace-wrapping your right leg to your thigh, compression stocks, 
and using an abdominal binder when walking, which we started 
while you were in hospital. With the above recommendations and 
time, you began to feel more stable walking and improve 
breathing.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
**New Medications**
[] We started you on Apixaban to prevent further blood clot 
formation. You will need to take it for a total of 3 months. You 
will continue to take 10 mg twice a day for a total of 1 week 
duration through ___. You will then take 5 mg twice a day. 
[] Please follow up with your PCP to continue on the Apixaban. 
We will give you a one-month supply. 
 
[] Please use the abdominal binder when walking and the 
compression stockings at all times. Please wait a full 2 minutes 
in
between moving from lying down to seated to standing. Please 
gradually increase your activity level as tolerated with the 
help of physical therapy.
[] Please follow up with your orthopedic surgeon. He is aware of 
your current hospitalization and change to apixaban. 
[] Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  

Your ___ Team  

 
Followup Instructions:
___